US07582761B2
(a) (5-Chloro-6-piperazin-1-yl-pyridin-3-yl)methanol
A mixture of 5,6-dichloro-3-pyridinemethanol (0.71 g, 4 mmol, TCI-US), piperazine (0.52 g, 6 mmol) and N,N-diisopropylethylamine (1 mL, 5.8 mmol, Aldrich) was reacted under the conditions of Example 43a to give the title compound as a light-yellow solid. MS (ESI, pos. ion) m/z: 228 (M+1).

reactant | 5,6-dichloro-3-pyridinemethanol | 4 mmol, 0.71 g | ClC=1C=C(C=NC1Cl)CO | C6H5Cl2NO
reactant | piperazine | 6 mmol, 0.52 g | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 5.8 mmol, 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | (5-Chloro-6-piperazin-1-yl-pyridin-3-yl)methanol | ClC=1C=C(C=NC1N1CCNCC1)CO | C10H14ClN3O
